US06252097B1
3.62 g (17.9 mmol) of 3-propionylcycloheptafuran-2-one and 3.8 ml (35.8 mmol) of ethyl cyanoacetate were dissolved in 50 ml of ethanol. The solution was mixed with a solution of sodium ethoxide prepared from 80 ml of ethanol and 1.65 g (71.7 mmol) of sodium, at 0° C. After the mixed solution was stirred overnight at room temperature, the obtained reaction solution was concentrated up to two times an initial concentration thereof. The concentrated solution was diluted with 200 ml of water and extracted with dichloromethane. Thereafter, an aqueous phase of the extract was mixed with dilute hydrochloric acid to acidify the aqueous phase, thereby obtaining a crystallized product. After filtration, the crystallized product was dried under a reduced pressure to obtain 3.73 g of 1-cyano-2-ethylazulene-3-carboxylic acid (yield: 93%).

reactant | 3-propionylcycloheptafuran-2-one | 17.9 mmol, 3.62 g | C(CC)(=O)C=1C(OC=2C1C=CC=CC2)=O | C12H10O3
reactant | ethyl cyanoacetate | 35.8 mmol, 3.8 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 71.7 mmol, 1.65 g | [Na] | Na
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 1-cyano-2-ethylazulene-3-carboxylic acid | 3.73 g, yield: 93% | C(#N)C1=C(C(=C2C=CC=CC=C12)C(=O)O)CC | C14H11NO2
